US07384967B2
N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-2-dimethylamino-acetamide (86 mg, 78%) was prepared from 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (90 mg, 0.25 mmol) and N,-N-dimethyl glycine (0.30 mg, 0.30 mmol) following the general procedure K.

reactant | 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.25 mmol, 90 mg | NCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C18H22N4O2S
reactant | N,-N-dimethyl glycine | 0.30 mmol, 0.30 mg | CN(CC(=O)O)C | C4H9NO2
product | N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-2-dimethylamino-acetamide | 86 mg, 78% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CNC(CN(C)C)=O)=O | C22H29N5O3S
